US07470680B2
(S)-6-(1-(2-(7-chloro-2-neopentyl-3-oxo-1,2,3,4,5,8-hexahydroazepino[3,4-e]indol-4-yl)acetyl)piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one.
To a solution of (S)-2-(4-chloro-9-neopentyl-8-oxo-3,6,7,8,9,10-hexahydroazepino [3,4-e]indazol-7-yl)acetic acid (123 mg, 0.338 mmol), 6-(piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one (79 mg, 0.338 mmol), HOBT (56.9 mg, 0.372 mmol), EDC (71.3 mg, 0.372 mmol) in DMF (5 mL) was added DIEA (0.295 mL, 1.690 mmol) at rt, and the mixture was stirred over night. Partial of the solvent was removed under N2 at 60° C., and the residue was purified on reverse phase PrepHPLC to afford the expected product, (S)-6-(1-(2-(7-chloro-2-neopentyl-3-oxo-1,2,3,4,5,8-hexahydroazepino [3,4-e]indol-4-yl)acetyl)piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one (113 mg, 57.6%) as a white solid. 1H-NMR (400 MHz, CHLOROFORM-D) δ ppm 0.80 (d, J=6.80 Hz, 11 H) 1.52 (ddd, J=12.46, 8.06, 4.41 Hz, 1H) 1.87-1.96 (m, 1H) 2.00 (s, 1H) 2.38-2.49 (m, 1H) 2.75 (td, J=12.84, 2.01 Hz, 1H) 2.94-3.04 (m, 1H) 3.07-3.18 (m, 4 H) 3.66 (dd, J=13.60, 2.77 Hz, 1H) 3.96-4.06 (m, 1H) 4.23 (s, 1H) 4.61-4.72 (m, 2H) 5.51 (d, J=17.37 Hz, 1H) 7.04 (dd, J=5.29, 2.01 Hz, 1H) 7.22 (s, 1H) 7.70 (dd, J=5.41, 2.14 Hz, 1H) 7.89 (d, J=18.38 Hz, 1H) 8.24 (s, 1H); Mass spec. 580.25 (MH+), Calc. for C30H34ClN5O3S 579.21.

reactant | (S)-2-(4-chloro-9-neopentyl-8-oxo-3,6,7,8,9,10-hexahydroazepino [3,4-e]indazol-7-yl)acetic acid | 0.338 mmol, 123 mg | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC(C)(C)C | C18H22ClN3O3
reactant | 6-(piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one | 0.338 mmol, 79 mg | N1CCC(CC1)C1=CC2=C(NC1=O)C=CS2 | C12H14N2OS
reactant | HOBT | 0.372 mmol, 56.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.372 mmol, 71.3 mg
reactant | DIEA | 1.690 mmol, 0.295 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-6-(1-(2-(7-chloro-2-neopentyl-3-oxo-1,2,3,4,5,8-hexahydroazepino [3,4-e]indol-4-yl)acetyl)piperidin-4-yl)thieno[3,2-b]pyridin-5(4H)-one | 113 mg, 57.6% | ClC=1C=C2C(=C3C=CNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C2=CC1=C(NC2=O)C=CS1)=O)CC(C)(C)C | C31H35ClN4O3S
